### PR TITLE
[Merged by Bors] - feat(FieldTheory/Separable): Add lemmas of elementwise `IsSeparable`

### PR DESCRIPTION
**Pull request by jjdishere**
Add lemmas of elementwise `IsSeparable` decomposed from `Algebra.IsSeparable` lemmas. Add `Field.isSeparable_neg`, `Field.isSeparable_sub`

---

- [x] depends on: #14232
[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/FieldTheory/Separable.lean [hunk 1]
```diff
@@ -625,58 +628,105 @@ instance Algebra.IsSeparable.isAlgebraic [Nontrivial F] [Algebra.IsSeparable F K
...
+    [Algebra F E] [Algebra K E] [IsScalarTower F K E]
+
+variable {F E} in
+/-- If `E / K / F` is an extension tower, `x : E` is separable over `F`, then it's also separable
 over `K`. -/
-theorem IsSeparable.of_isScalarTower {A : Type*} [CommRing A]
-    (K : Type*) [Field K] [Algebra A K] {R : Type*} [CommRing R] [Algebra A R] [Algebra K R]
-    [IsScalarTower A K R] {x : R} (h : IsSeparable A x) : IsSeparable K x :=
+theorem IsSeparable.tower_top
+    {x : E} (h : IsSeparable F x) : IsSeparable K x :=
```
Comment (semorrison) [inline Mathlib/FieldTheory/Separable.lean:675]: Was this rename discussed somewhere? It probably deserves to have deprecated aliases for the old names.

Comment (jjdishere) [reply Mathlib/FieldTheory/Separable.lean:675]: The general rename issue from algebra to element is discussed at [here](https://leanprover.zulipchat.com/#narrow/stream/116395-maths/topic/.60IsSeparable.60.20and.20.60Algebra.2EIsSeparable.60). But there is no specific discussion for this theorem.

Comment (jjdishere) [reply Mathlib/FieldTheory/Separable.lean:675]: And yes, I believe creating deprecated aliases for the old names is a good idea. Do you think we should do deprecated aliases for all renamed theorems? And for the previous PR #14404 ?

File: Mathlib/FieldTheory/Separable.lean [hunk 2]
```diff
@@ -685,8 +735,18 @@ lemma Algebra.IsSeparable.of_equiv_equiv {A₁ B₁ A₂ B₂ : Type*} [Field A
     { e₂ with
       commutes' := fun r ↦ by
         simpa [RingHom.algebraMap_toAlgebra] using DFunLike.congr_fun he.symm (e₁.symm r) }
-  haveI := Algebra.isSeparable_tower_top_of_isSeparable A₁ A₂ B₁
-  exact Algebra.IsSeparable.of_algHom _ _ e.symm.toAlgHom
+  haveI := IsSeparable.tower_top A₂ h
+  IsSeparable.of_algHom e.symm ((e₂.symm_apply_apply x).symm ▸ this)
+
+
+lemma Algebra.IsSeparable.of_equiv_equiv {A₁ B₁ A₂ B₂ : Type*} [Field A₁] [Field B₁]
```
Comment (riccardobrasca) [inline Mathlib/FieldTheory/Separable.lean:742]:
```suggestion
  IsSeparable.of_algHom e.symm ((e₂.symm_apply_apply x).symm ▸ this)

lemma Algebra.IsSeparable.of_equiv_equiv {A₁ B₁ A₂ B₂ : Type*} [Field A₁] [Field B₁]
```

File: Mathlib/FieldTheory/Separable.lean (hunk 1 above)
Comment (jjdishere) [reply Mathlib/FieldTheory/Separable.lean:610]: I've checked all theorems changes in this PR. Only `IsSeparable.of_isScalarTower` and `AlgEquiv.isSeparable` are possible to have a deprecated alias. Other theorem's old names are occupied.

File: Mathlib/FieldTheory/Separable.lean [hunk 3]
```diff
@@ -625,58 +628,105 @@ instance Algebra.IsSeparable.isAlgebraic [Nontrivial F] [Algebra.IsSeparable F K
...
 #align is_separable_tower_top_of_is_separable Algebra.isSeparable_tower_top_of_isSeparable
 
-theorem Algebra.isSeparable_tower_bot_of_isSeparable [h : Algebra.IsSeparable F E] :
-    Algebra.IsSeparable F K :=
-  ⟨fun x ↦
+end
+
+section
+
+variable (F K E : Type*) [Field F] [Field K] [Ring E] [Algebra F K] [Algebra F E] [Algebra K E]
```
[the remark this answers is not in the document]
Comment (jjdishere) [reply Mathlib/FieldTheory/Separable.lean]: I have reorganized the structure of theorems by their conditions so that the variables are declared only once.

File: Mathlib/FieldTheory/Separable.lean [hunk 4]
```diff
@@ -554,72 +554,136 @@ theorem Algebra.isSeparable_iff :
...
 
+/-- Transfer `IsSeparable` across an `AlgEquiv`. -/
+theorem AlgEquiv.isSeparable_iff {x : K} : IsSeparable F (e x) ↔ IsSeparable F x := by
+  simp only [IsSeparable, minpoly.algEquiv_eq e x]
+
 /-- Transfer `Algebra.IsSeparable` across an `AlgEquiv`. -/
-theorem AlgEquiv.isSeparable [Algebra.IsSeparable F K] : Algebra.IsSeparable F E :=
-  ⟨fun _ ↦
-    by rw [IsSeparable, ← minpoly.algEquiv_eq e.symm]; exact Algebra.IsSeparable.isSeparable F _⟩
+theorem AlgEquiv.Algrebra.isSeparable [Algebra.IsSeparable F K] : Algebra.IsSeparable F E :=
```
Comment (faenuccio) [inline Mathlib/FieldTheory/Separable.lean:569]:
```suggestion
theorem AlgEquiv.Algebra.isSeparable [Algebra.IsSeparable F K] : Algebra.IsSeparable F E :=
```

File: Mathlib/FieldTheory/Separable.lean [hunk 5]
```diff
@@ -554,72 +554,136 @@ theorem Algebra.isSeparable_iff :
...
+  ⟨fun _ ↦ e.symm.isSeparable_iff.mp (Algebra.IsSeparable.isSeparable _ _)⟩
 
-theorem AlgEquiv.isSeparable_iff : Algebra.IsSeparable F K ↔ Algebra.IsSeparable F E :=
-  ⟨fun _ ↦ e.isSeparable, fun _ ↦ e.symm.isSeparable⟩
+@[deprecated (since := "2024-08-06")]
+alias AlgEquiv.isSeparable := AlgEquiv.Algrebra.isSeparable
 
-variable (F K)
+theorem AlgEquiv.Algebra.isSeparable_iff : Algebra.IsSeparable F K ↔ Algebra.IsSeparable F E :=
+  ⟨fun _ ↦ AlgEquiv.Algrebra.isSeparable e, fun _ ↦ AlgEquiv.Algrebra.isSeparable e.symm⟩
```
Comment (faenuccio) [inline Mathlib/FieldTheory/Separable.lean:576]:
```suggestion
  ⟨fun _ ↦ AlgEquiv.Algebra.isSeparable e, fun _ ↦ AlgEquiv.Algrebra.isSeparable e.symm⟩
```

**Comment by jjdishere** [comment]
@faenuccio `protected instance (priority := 100) Algebra.IsSeparable.of_finite` is `protected` to avoid confusion with the elementwise lemma `theorem IsSeparable.of_finite` once you `open Algebra`.

File: Mathlib/FieldTheory/Separable.lean [hunk 6]
```diff
@@ -554,72 +554,136 @@ theorem Algebra.isSeparable_iff :
...
   ⟨fun x ↦ (Algebra.IsSeparable.isIntegral F x).isAlgebraic⟩
 
+end
+
+section
+
+variable [Field L] [CommRing E] [Algebra F L]
+    [Algebra F E] [Algebra L E] [IsScalarTower F L E]
+
+/-- If `E / L / F` is an extension tower, `x : E` is separable over `F`, then it's also separable
```
Comment (faenuccio) [inline Mathlib/FieldTheory/Separable.lean:590]:
```suggestion
/-- If `E / L / F` is a scalar tower and `x : E` is separable over `F`, then it's also separable
```

File: Mathlib/FieldTheory/Separable.lean [hunk 7]
```diff
@@ -554,72 +554,136 @@ theorem Algebra.isSeparable_iff :
...
-/-- If `R / K / A` is an extension tower, `x : R` is separable over `A`, then it's also separable
-over `K`. -/
-theorem IsSeparable.of_isScalarTower {A : Type*} [CommRing A]
-    (K : Type*) [Field K] [Algebra A K] {R : Type*} [CommRing R] [Algebra A R] [Algebra K R]
-    [IsScalarTower A K R] {x : R} (h : IsSeparable A x) : IsSeparable K x :=
-  h.map.of_dvd (minpoly.dvd_map_of_isScalarTower _ _ _)
-
-variable (F K E : Type*) [Field F] [Field K] [Field E] [Algebra F K] [Algebra F E] [Algebra K E]
-  [IsScalarTower F K E]
+section
```
Comment (faenuccio) [inline Mathlib/FieldTheory/Separable.lean:637]: Why a new `section` here? Why don't you need a section name? Perhaps `ScalarTower`?

File: Mathlib/FieldTheory/Separable.lean [hunk 8]
```diff
@@ -554,72 +554,136 @@ theorem Algebra.isSeparable_iff :
...
-    Algebra.IsSeparable K E :=
-  ⟨fun x ↦ IsSeparable.of_isScalarTower _ (Algebra.IsSeparable.isSeparable F x)⟩
+variable [Field K] [Ring E] [Algebra F K] [Algebra F E] [Algebra K E]
+  [Nontrivial E] [IsScalarTower F K E]
 
-theorem Algebra.isSeparable_tower_bot_of_isSeparable [h : Algebra.IsSeparable F E] :
-    Algebra.IsSeparable F K :=
-  ⟨fun x ↦
+variable {F} in
+/-- If `E / K / F` is an extension tower, `algebraMap K E x` is separable over `F`, then `x` is
```
Comment (faenuccio) [inline Mathlib/FieldTheory/Separable.lean:643]:
```suggestion
/-- If `E / K / F` is a scalar tower and `algebraMap K E x` is separable over `F`, then `x` is
``

File: Mathlib/FieldTheory/Separable.lean [hunk 9]
```diff
@@ -554,72 +554,136 @@ theorem Algebra.isSeparable_iff :
...
+
+variable (K E) in
+theorem Algebra.isSeparable_tower_bot_of_isSeparable [h : Algebra.IsSeparable F E] :
+    Algebra.IsSeparable F K :=
+  ⟨fun _ ↦ IsSeparable.tower_bot (h.isSeparable _)⟩
+
+end
 
-variable {E}
+section
```
Comment (faenuccio) [inline Mathlib/FieldTheory/Separable.lean:658]: Perhaps `section AlgHom` or something like this?

File: Mathlib/FieldTheory/Separable.lean [hunk 10]
```diff
@@ -554,72 +554,136 @@ theorem Algebra.isSeparable_iff :
...
+variable [Field K] [Ring E] [Algebra F K] [Algebra F E] [Algebra K E]
+  [Nontrivial E] [IsScalarTower F K E]
 
-theorem Algebra.isSeparable_tower_bot_of_isSeparable [h : Algebra.IsSeparable F E] :
-    Algebra.IsSeparable F K :=
-  ⟨fun x ↦
+variable {F} in
+/-- If `E / K / F` is an extension tower, `algebraMap K E x` is separable over `F`, then `x` is
+also separable over `F`. -/
+theorem IsSeparable.tower_bot {x : K} (h : IsSeparable F (algebraMap K E x)) : IsSeparable F x :=
```
Comment (faenuccio) [inline Mathlib/FieldTheory/Separable.lean:645]: I would do this proof in tactic mode, but that's personal taste.

File: Mathlib/FieldTheory/Separable.lean [hunk 11]
```diff
@@ -554,72 +554,136 @@ theorem Algebra.isSeparable_iff :
...
 
-theorem Algebra.IsSeparable.of_algHom (E' : Type*) [Field E'] [Algebra F E'] (f : E →ₐ[F] E')
-    [Algebra.IsSeparable F E'] : Algebra.IsSeparable F E := by
+variable [Field E] [Field E'] [Algebra F E] [Algebra F E']
+    (f : E →ₐ[F] E')
+include f
+
+variable {F} in
+theorem IsSeparable.of_algHom {x : E} (h : IsSeparable F (f x)) : IsSeparable F x := by
   letI : Algebra E E' := RingHom.toAlgebra f.toRingHom
```
Comment (faenuccio) [inline Mathlib/FieldTheory/Separable.lean:666]:
```suggestion
  let _ : Algebra E E' := RingHom.toAlgebra f.toRingHom
```

File: Mathlib/FieldTheory/Separable.lean [hunk 12]
```diff
@@ -554,72 +554,136 @@ theorem Algebra.isSeparable_iff :
   ⟨fun _ x => ⟨Algebra.IsSeparable.isIntegral F x, Algebra.IsSeparable.isSeparable F x⟩,
     fun h => ⟨fun x => (h x).2⟩⟩
 
-variable {E : Type*} [Ring E] [Algebra F E] (e : K ≃ₐ[F] E)
+variable {E : Type*}
+
+section
+
+variable [Ring E] [Algebra F E] (e : K ≃ₐ[F] E)
```
Comment (faenuccio) [inline Mathlib/FieldTheory/Separable.lean:561]: Is it possible to `open` Algebra everywhere and avoid having `Algebra.` at all places?

File: Mathlib/FieldTheory/Separable.lean [hunk 13]
```diff
@@ -628,10 +692,15 @@ lemma Algebra.IsSeparable.of_equiv_equiv {A₁ B₁ A₂ B₂ : Type*} [Field A
     { e₂ with
       commutes' := fun r ↦ by
         simpa [RingHom.algebraMap_toAlgebra] using DFunLike.congr_fun he.symm (e₁.symm r) }
-  haveI := Algebra.isSeparable_tower_top_of_isSeparable A₁ A₂ B₁
-  exact Algebra.IsSeparable.of_algHom _ _ e.symm.toAlgHom
+  haveI := IsSeparable.tower_top A₂ h
```
Comment (faenuccio) [inline Mathlib/FieldTheory/Separable.lean:695]:
```suggestion
  have := IsSeparable.tower_top A₂ h
```

File: Mathlib/FieldTheory/SeparableClosure.lean [hunk 14]
```diff
@@ -170,7 +170,8 @@ theorem separableClosure.separableClosure_eq_bot :
 theorem separableClosure.normalClosure_eq_self :
     normalClosure F (separableClosure F E) E = separableClosure F E :=
   le_antisymm (normalClosure_le_iff.2 fun i ↦
-    haveI : Algebra.IsSeparable F i.fieldRange := (AlgEquiv.ofInjectiveField i).isSeparable
+    haveI : Algebra.IsSeparable F i.fieldRange :=
```
Comment (faenuccio) [inline Mathlib/FieldTheory/SeparableClosure.lean:173]:
```suggestion
    have : Algebra.IsSeparable F i.fieldRange :=
```

File: Mathlib/FieldTheory/SeparableClosure.lean [hunk 15]
```diff
@@ -219,7 +220,7 @@ theorem separableClosure.eq_top_iff : separableClosure F E = ⊤ ↔ Algebra.IsS
 `separableClosure E K`. -/
 theorem separableClosure.le_restrictScalars [Algebra E K] [IsScalarTower F E K] :
     separableClosure F K ≤ (separableClosure E K).restrictScalars F :=
-  fun _ h ↦ IsSeparable.of_isScalarTower E h
+  fun _ h ↦ IsSeparable.tower_top E h
```
Comment (faenuccio) [inline Mathlib/FieldTheory/SeparableClosure.lean:223]:
```suggestion
  fun _ ↦ IsSeparable.tower_top E
```

File: Mathlib/FieldTheory/Separable.lean [hunk 16]
```diff
@@ -554,72 +554,136 @@ theorem Algebra.isSeparable_iff :
...
+
+variable [Ring K] [Algebra F K]
+
+variable {F} in
+theorem isSeparable_algebraMap (x : F) : IsSeparable F (algebraMap F K x) :=
+  Polynomial.Separable.of_dvd (Polynomial.separable_X_sub_C (x := x))
+    (minpoly.dvd F (algebraMap F K x) (by simp only [map_sub, aeval_X, aeval_C, sub_self]))
+
+instance Algebra.isSeparable_self : Algebra.IsSeparable F F :=
+  ⟨fun _ => isSeparable_algebraMap _⟩
```
Comment (faenuccio) [inline Mathlib/FieldTheory/Separable.lean:622]:
```suggestion
  ⟨isSeparable_algebraMap⟩
```

File: Mathlib/FieldTheory/Separable.lean [hunk 17]
```diff
@@ -554,72 +554,136 @@ theorem Algebra.isSeparable_iff :
...
+  (minpoly.irreducible <| .of_finite F x).separable
 
+variable (K) in
 -- See note [lower instance priority]
 /-- A finite field extension in characteristic 0 is separable. -/
-instance (priority := 100) Algebra.IsSeparable.of_finite (F K : Type*) [Field F] [Field K]
-    [Algebra F K] [FiniteDimensional F K] [CharZero F] : Algebra.IsSeparable F K :=
-  ⟨fun x => (minpoly.irreducible <| .of_finite F x).separable⟩
+protected instance (priority := 100) Algebra.IsSeparable.of_finite : Algebra.IsSeparable F K :=
+  ⟨fun _ => _root_.IsSeparable.of_finite _ _⟩
```
Comment (faenuccio) [inline Mathlib/FieldTheory/Separable.lean:633]:
```suggestion
  ⟨fun _ => _root_.IsSeparable.of_finite _ _⟩
```

**Review by faenuccio — COMMENTED** [review]
Nice work, thanks!

File: Mathlib/FieldTheory/Separable.lean (hunk 7 above)
Comment (jjdishere) [reply Mathlib/FieldTheory/Separable.lean:637]: Here in this part of the file, every single theorem has a different list of variables (E F being Ring or Field, ...). I open new sections to control these variables.

Comment (jjdishere) [reply Mathlib/FieldTheory/Separable.lean:637]: Here in this part of the file, every single theorem has a different list of variables (E F being Ring or Field, ...). I open new sections to control these variables.

Comment (jjdishere) [reply Mathlib/FieldTheory/Separable.lean:637]: I've added names for these sections. Thanks!

File: Mathlib/FieldTheory/Separable.lean (hunk 17 above)
Comment (jjdishere) [reply Mathlib/FieldTheory/Separable.lean:633]: Fixed to `⟨_root_.IsSeparable.of_finite _⟩`

File: Mathlib/FieldTheory/Separable.lean (hunk 9 above)
Comment (jjdishere) [reply Mathlib/FieldTheory/Separable.lean:659]: Thank you! Added.

File: Mathlib/FieldTheory/Separable.lean (hunk 12 above)
Comment (jjdishere) [reply Mathlib/FieldTheory/Separable.lean:566]: I've tried but this does not work well, since based on current naming conventions, either one needs `Algebra.` or one needs `_root_.`. There are too many lemmas getting the same name after `open Algebra`.

File: Mathlib/FieldTheory/Separable.lean (hunk 10 above)
Comment (jjdishere) [reply Mathlib/FieldTheory/Separable.lean:646]: The last author did it in term mode, so I inherited the term mode proof and made a minimal change.

**Comment by faenuccio** [comment]
Thanks! It now looks good to me, but there is a merge conflict. Can you take care of it so that we can move forward and merge?

**Comment by jjdishere** [comment]
> Thanks! It now looks good to me, but there is a merge conflict. Can you take care of it so that we can move forward and merge?

Thank you! Now the merge conflict is fixed. @faenuccio

**Comment by faenuccio** [comment]
> > Thanks! It now looks good to me, but there is a merge conflict. Can you take care of it so that we can move forward and merge?
> 
> Thank you! Now the merge conflict is fixed. @faenuccio

Thanks!

**Comment by faenuccio** [comment]
maintainer merge

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
